US04286095
A solution of 33.6 g of bromine and 60 g of sodium bromide in 450 ml of water was added dropwise with stirring to solution comprising 50 g of 4-phenyl-1,2,5,6-tetrahydropyridine hydrobromide in 600 ml of water and the reaction mixture was then stirred at room temperature for 30 minutes. The solution was stirred on an ice bath while 252 ml of 10% sodium hydroxide was added dropwise thereto. The resulting mixture then being stirred at room temperature for a further 30 minutes. The aqueous solution was extracted with methylene chloride and the organic phase solution dried over sodium sulfate and then concentrated in vacuo to give 25.2 g of the desired 3,4-epoxy-4-phenyl piperidine as an oil.

reactant | bromine | 33.6 g | BrBr | Br2
reactant | sodium bromide | 60 g | [Br-].[Na+]
reactant | 4-phenyl-1,2,5,6-tetrahydropyridine hydrobromide | 50 g | Br.C1(=CC=CC=C1)C1=CCNCC1
reactant | sodium hydroxide | 252 ml | [OH-].[Na+]
solvent | water | 450 ml | O | H2O
solvent | water | 600 ml | O | H2O
product | 3,4-epoxy-4-phenyl piperidine | 25.2 g | O1C2CNCCC21C2=CC=CC=C2 | C11H13NO
